US04174959
7-(alpha-methylbenzylidenamino)-1-isopropyl-2-methyl-5-trifluoromethylbenzimidazole
Acetophenone (2.8 g.) was reacted with 1-isopropyl-2-methyl-5-trifluoromethyl-7-aminobenzimidazole (4.0 g.) in 50 ml. of xylene for 21 hours according to the procedure of Example 1. After drying over sodium sulfate, the solvent was removed and the crude residue was recrystallized from benzene-cyclohexane (1:1) to give 3.38 g. of the desired product, m.p. 164°-166° C.

reactant | Acetophenone | 2.8 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | 1-isopropyl-2-methyl-5-trifluoromethyl-7-aminobenzimidazole | 4.0 g | C(C)(C)N1C(=NC2=C1C(=CC(=C2)C(F)(F)F)N)C | C12H14F3N3
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 7-(alpha-methylbenzylidenamino)-1-isopropyl-2-methyl-5-trifluoromethylbenzimidazole | CC(C1=CC=CC=C1)=NC1=CC(=CC2=C1N(C(=N2)C)C(C)C)C(F)(F)F | C20H20F3N3
